US06011034
1 g of the ethyl 5,6-dihydro-2-(4-trifluoromethoxy-phenyl-4H-1,3,4-oxadiazine-6-carboxylate prepared above in A was dissolved in 15 ml of acetonitrile. 1 g of 4-(trifluoromethyl)phenyl isocyanate was added dropwise. The resulting reaction mixture was refluxed for two hours and then the solvent was evaporated under reduced pressure to produce a solid. The solid was washed with a few milliliters of acetonitrile to produce 1.2 g of ethyl 5,6-dihydro-2-(4-trifluoromethoxyphenyl)-N-(((4-trifluoromethylphenyl)amino)carbonyl)-4H-1,3,4-oxadiazine-6-carboxylate as a white solid. The structure was confirmed by nuclear magnetic resonance spectroscopy.

reactant | 4-trifluoromethoxy-phenyl-4H-1,3,4-oxadiazine-6-carboxylate | FC(OC1=CC=C(C=C1)C=1OC(=CNN1)C(=O)[O-])(F)F
reactant | 4-(trifluoromethyl)phenyl isocyanate | 1 g | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
product | ethyl 5,6-dihydro-2-(4-trifluoromethoxyphenyl)-N-(((4-trifluoromethylphenyl)amino)carbonyl)-4H-1,3,4-oxadiazine-6-carboxylate | 1.2 g | FC(OC1=CC=C(C=C1)C1OC(CNN1C(=O)NC1=CC=C(C=C1)C(F)(F)F)C(=O)OCC)(F)F | C21H19F6N3O5
